US07825131B2
Step C: 3-Amino-1-(2,4-dimethoxybenzyl)-4-(3-fluorophenyl)-6-methoxyquinolin-2-(1H)-one
A solution of 1-[1-(2,4-dimethoxybenzyl)-4-(3-fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinolin-3-yl]pyridinium chloride (225 mg, 0.422 mmol) and hydrazine (0.133 mL, 4.22 mmol) in 3 mL of ethanol was heated to reflux. After one hour, the reaction was cooled to room temperature. The reaction was partitioned between EtOAc and saturated NaHCO3 solution, and the organic layer dried over Na2SO4, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography through SiO2 (0-5% MeOH/CH2Cl2) to provide the titled product as a white foam. 1H-NMR (500 MHz, CDCl3) δ 7.55 (m, 1H), 7.18 (d, J=8.5 Hz, 2H), 7.12 (m, 1H), 6.81 (dd, J=9.2, 2.7 Hz, 1H), 6.76 (d, J=8.5 Hz, 1H), 6.52 (br s, 1H), 6.34 (dd, J=8.5, 2.2 Hz, 1H), 5.57 (s, 2H), 3.96 (s, 3H), 3.76 (s, 3H), 3.65 (s, 3H) ppm. HRMS (ES) exact mass calculated for C25H23FN2O4 (M+H+): 435.1715. Found 435.1732.

reactant | 1-[1-(2,4-dimethoxybenzyl)-4-(3-fluorophenyl)-6-methoxy-2-oxo-1,2-dihydroquinolin-3-yl]pyridinium chloride | 0.422 mmol, 225 mg | [Cl-].COC1=C(CN2C(C(=C(C3=CC(=CC=C23)OC)C2=CC(=CC=C2)F)[N+]2=CC=CC=C2)=O)C=CC(=C1)OC
reactant | hydrazine | 4.22 mmol, 0.133 mL | NN | H4N2
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | 3-Amino-1-(2,4-dimethoxybenzyl)-4-(3-fluorophenyl)-6-methoxyquinolin-2-(1H)-one | NC=1C(N(C2=CC=C(C=C2C1C1=CC(=CC=C1)F)OC)CC1=C(C=C(C=C1)OC)OC)=O | C25H23FN2O4
